US04129653
2-Carbethoxy-1H-pyrrolo[1,2-c]quinazolin-4-ium bromide
A solution of ethyl bromopyruvate (32.76 g, 0.172 m) and 4-methylquinazoline (15.61g, 0.109 m) in dry ethanol (400 ml) was heated at reflux for 16 hours during which time a yellow precipitate formed. The reaction mixture was cooled and the solid filtered and dried to yield crude product. Crystallization from MeOH afforded the product as a yellow solid; m.p. 274°-275° C.

reactant | ethyl bromopyruvate | 32.76 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | 4-methylquinazoline | 15.61g | CC1=NC=NC2=CC=CC=C12 | C9H8N2
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2-Carbethoxy-1H-pyrrolo[1,2-c]quinazolin-4-ium bromide | [Br-].C(=O)(OCC)C=1CC2=[N+](C=NC=3C=CC=CC23)C1 | InChI=1S/C14H13N2O2.BrH/c1-2-18-14(17)10-7-13-11-5-3-4-6-12(11)15-9-16(13)8-10;/h3-6,8-9H,2,7H2,1H3;1H/q+1;/p-1
